US06110933
Magnesium (1.5 g) was added to a solution of 1-bromo-12-methyltridecane (15.0 g) in tetrahydrofuran (200 ml). The mixture was refluxed for 10 minutes under nitrogen atmosphere and stirred for 1 hour at room temperature. A solid of carbon dioxide (50 g) was added to the mixture. To the mixture was added a mixture of 1% hydrochloric acid (300 ml) and ethyl acetate (150 ml). The organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on a silica gel column eluting with chloroform to give 13-methyltetradecanoic acid as an oil (7.54 g).

reactant | Magnesium | 1.5 g | [Mg] | Mg
reactant | 1-bromo-12-methyltridecane | 15.0 g | BrCCCCCCCCCCCC(C)C | C14H29Br
reactant | carbon dioxide | 50 g | C(=O)=O | CO2
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 13-methyltetradecanoic acid | 7.54 g | CC(CCCCCCCCCCCC(=O)O)C | C15H30O2
